US04163801
2,6-Bis(5-chloro-2-hydroxy-3-nitrobenzyl)-4-chlorophenol (9)
Zinc chloride (2 g) was added in small portions over 75 min to a melt of 2,6-bis(chloromethyl)-4-chlorophenol (1.2 g) and 4-chloro-2-nitrophenol (3 g) at a temperature of 120°. The mixture was stirred at this temperature for approximately 1 hr. The black product was extracted several times with acetone and the extract filtered to remove black inorganic material. The acetone was removed by distillation under reduced pressure and the residue chromatographed on silica gel. Elution with hexane containing 3% ethyl acetate gave unreacted 4-chloro-2-nitrophenol and elution with hexane containing 20% ethyl acetate gave the title compound (0.5 g) which was recrystallised from aqueous ethanol; m.p. 200°.

reactant | 2,6-bis(chloromethyl)-4-chlorophenol | 1.2 g | ClCC1=C(C(=CC(=C1)Cl)CCl)O | C8H7Cl3O
reactant | 4-chloro-2-nitrophenol | 3 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
catalyst | Zinc chloride | 2 g | [Cl-].[Zn+2].[Cl-]
product | 2,6-Bis(5-chloro-2-hydroxy-3-nitrobenzyl)-4-chlorophenol | 0.5 g | ClC=1C=C(C(=C(CC2=C(C(=CC(=C2)Cl)CC2=C(C(=CC(=C2)Cl)[N+](=O)[O-])O)O)C1)O)[N+](=O)[O-] | C20H13Cl3N2O7
